US05726306
(2) Trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-3-[(tetrazol-5-yl)methylaminocarbonylmethyl]-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine
Trans-7-chloro-5-(2-chlorophenyl)-3-(cyanomethylaminocarbonylmethyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine and sodium azide were subjected to the same procedure as in Example 102 to yield a crystal.

reactant | Trans-7-chloro-5-(2-chlorophenyl)-3-(cyanomethylaminocarbonylmethyl)-1-isopropyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)CC(=O)NCC#N)C2=C(C=CC=C2)Cl)C1 | C22H21Cl2N3O3
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | Trans-7-chloro-5-(2-chlorophenyl)-1-isopropyl-3-[(tetrazol-5-yl)methylaminocarbonylmethyl]-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine | ClC=1C=CC2=C([C@H](O[C@@H](C(N2C(C)C)=O)CC(=O)NCC2=NN=NN2)C2=C(C=CC=C2)Cl)C1 | C22H22Cl2N6O3
